US08071807B2
To 3-hydroxy-4-methoxyphenylacetic acid (5.0 g, 27.4 mmol) in EtOH (100 mL) was added sulfuric acid (1 mL), and the mixture was stirred overnight at room temperature. Once no starting material was seen by analytical tlc, the solution was concentrated and dried under high vacuum to give (3-hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester. A solution of (3-hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester (1 equivalent), 2-fluoro-5-nitrobenzaldehyde (1 equivalent), and potassium carbonate (2 equivalents) in 1,4-dioxane was heated overnight at 70° C. The mixture was partitioned between EtOAc and H2O and acidified with 1N aqueous HCl to pH 1, and then extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (EtOAc in hexane gradient) to give the title compound.

reactant | 3-hydroxy-4-methoxyphenylacetic acid | 27.4 mmol, 5.0 g | OC=1C=C(C=CC1OC)CC(=O)O | C9H10O4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 100 mL | CCO | C2H6O
product | (3-hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)O)=O | C11H14O4
